US06369075B1
4′-Trifluoromethyl-biphenyl-2-carboxylic acid [3-(morpholine4-carbonyl)-quinolin-7-yl]-amide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (50 mg, 0.11 mmol) was combined with morpholine (11 mg, 0.12 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 0.14 mmol), 1-hydroxybenzotriazole (17 mg, 0.13 mmol), and triethylamine (0.064 ml, 0.46 mmol) in 1 ml of dichloromethane and allowed to react overnight. The reaction mixture was concentrated, the residue was suspended in water, and the solid was collected by vacuum filtration. This material was purified by preparative thin-layer-chromatography on silica eluting with ethyl acetate. The product containing band was collected and eluted with 5% methanol in ethyl acetate to afford 28 mg of the title compound as a colorless solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.11 mmol, 50 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | morpholine | 0.12 mmol, 11 mg | N1CCOCC1 | C4H9NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.14 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.13 mmol, 17 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.46 mmol, 0.064 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic acid [3-(morpholine4-carbonyl)-quinolin-7-yl]-amide | 28 mg | N1(CCOCC1)C(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H22F3N3O3
